US06486156B1
Methyl 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate was prepared from methyl 4-(3-bromoprop-1-en-1-yl)-2-(4-fluorophenyl)benzoate as described for methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate in Example 19, but using N-benzylimidazole. Yield: 76%

reactant | methyl 4-(3-bromoprop-1-en-1-yl)-2-(4-fluorophenyl)benzoate | BrCC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C17H14BrFO2
reactant | methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | CN1C(=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C21H19FN2O2
reactant | N-benzylimidazole | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
product | Methyl 4-[3-(1-benzylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | Yield: 76% | C(C1=CC=CC=C1)N1C(=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C27H23FN2O2
